US08685969B2
7. 4-(3-Amino-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide
A solution of benzyl 3-(1-carbamoyl-6-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.125 g, 0.233 mmol) and 10% Pd/C (0.025 g, 0.023 mmol) in methanol (8.75 mL) and THF (2.92 mL) was stirred under a hydrogen balloon. After 1 hr, the reaction was flushed with nitrogen, filtered through a pad of CELITE®, rinsed with MeOH. The filtrate was concentrated in vacuo, dissolved in CH2Cl2 (100 mL), dried over MgSO4, and concentrated in vacuo to give the desired product (0.0786 g, 0.196 mmol, 84% yield) as a light tan solid.

reactant | benzyl 3-(1-carbamoyl-6-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.233 mmol, 0.125 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC=C(C=C21)N2CCOCC2)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C31H29N5O4
solvent | methanol | 8.75 mL | CO | CH4O
solvent | THF | 2.92 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.023 mmol, 0.025 g | [Pd] | Pd
product | 4-(3-Amino-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.196 mmol, 0.0786 g, 84% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC=C(C=C3C21)N2CCOCC2)C(=O)N)C | C23H23N5O2
